US05696117
4-(3-Chlorobenzyl)-3,4-dihydro-2-(2-hydroxyethyl)-7-methyl-3-oxo-2H-1,4-benzoxazine
Prepared from 2-(2-tert-butyldimethylsiloxyethyl)-3,4-dihydro-7-methyl-3-oxo-2H-1,4-benzoxazine by Methods F and G, alkylating with 3-chlorobenzyl bromide, in 76% yield as a white solid after crystallization from ether/hexane, mp 72°-74° C.; IR (KBr) 3418, 1679, 1512, 1402, 1292, 1061, 763 cm-1 ; 1H NMR (CDCl3) δ2.20-2.36 (m, 3H), 2.27 (s, 3H), 3.92 (q, J=5.6 Hz, 2H), 4.83 (dd, J=7.6, 5.5 Hz, 1H), 5.10 (ABq, JAB =17.0 Hz, 2H), 6.68-6.75 (m, 2H), 6.84 (s, 1H), 7.10-7.14 (m, 1H), 7.22-7.29 (m, 3H); MH+ at m/z=332; Anal. Calc'd for C18 H18ClNO3.0.2H2O: C, 64.46; H, 5.53; N, 4.18. Found: C, 64.48; H, 5.51; N, 4.06.

reactant | 2-(2-tert-butyldimethylsiloxyethyl)-3,4-dihydro-7-methyl-3-oxo-2H-1,4-benzoxazine | O([Si](C)(C)C(C)(C)C)CCC1OC2=C(NC1=O)C=CC(=C2)C | C17H27NO3Si
reactant | 3-chlorobenzyl bromide | ClC=1C=C(CBr)C=CC1 | C7H6BrCl
product | 4-(3-Chlorobenzyl)-3,4-dihydro-2-(2-hydroxyethyl)-7-methyl-3-oxo-2H-1,4-benzoxazine | 76% yield | ClC=1C=C(CN2C(C(OC3=C2C=CC(=C3)C)CCO)=O)C=CC1 | C18H18ClNO3
